US09062002B2
Synthesis of 4-((4-iodophenoxy)methyl)benzonitrile
To a stirred solution of 4-iodo phenol (620 mg, 3.18 mmol) in acetonitrile (6 ml) was added K2CO3 (1.31 g, 9.54 mmol), followed by 4-cyanobenzyl bromide (700 mg, 3.18 mmol) at 20-35° C. and the reaction mixture was stirred at 80° C. for 6 h. The progress of the reaction was monitored by TLC. After 6 h of stirring, the mixture was cooled to 20-35° C., diluted with water (50 ml) and extracted with ethyl acetate (2×50 ml). The combined organic layers were washed with brine (50 ml), followed by drying over anhydrous Na2SO4 and filtering. The filtrate was rotary evaporated to get residue which was purified by column chromatography using a mixture of 10% ethyl acetate/hexane as an eluent to get the desired compound as a to pale yellow solid (800 mg, 75%). 1H NMR (400 MHz, DMSO-d6) δ 7.86 (d, J=8.3 Hz, 2H), 7.64-7.59 (m, 4H), 6.90-6.85 (m, 2H), 5.21 (s, 2H).

reactant | 4-iodo phenol | 3.18 mmol, 620 mg | IC1=CC=C(C=C1)O | C6H5IO
reactant | K2CO3 | 9.54 mmol, 1.31 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-cyanobenzyl bromide | 3.18 mmol, 700 mg | C(#N)C1=CC=C(CBr)C=C1 | C8H6BrN
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
solvent | water | 50 ml | O | H2O
product | 4-((4-iodophenoxy)methyl)benzonitrile | IC1=CC=C(OCC2=CC=C(C#N)C=C2)C=C1 | C14H10INO
